US05215972
A solution of 5.00 g of cholesteryl chloroformate in 20 ml of methylene chloride is added dropwise to a mixture of 1.4 g of DL-serinol.HCl and 3.1 ml of triethylamine in 30 ml of methylene choride. After stirring for 45 hours the mixture is taken up in aqueous methanol and extracted with chloroform. The organic phase is dried and concentrated. After chromatography over SiO2 with chloroform and then with ether there are obtained 4.3 g of cholest-5-en-3β-yl [2-hydroxy-1-(hydroxymethyl)ethyl]carbamate, m.p. 158° C. (decomposition). b) A solution of 3.7 g of the product of a) in 30 ml of methylene chloride, 10 ml of THF and 0.6 ml of pyridine is treated under argon with 1 ml of phenyl chloroformate in 15 ml of methylene chloride. After stirring for 1 hour the solution is taken up in 200 ml of water and 50 ml of 0.1N HCl and extracted with 150 ml of methylene chloride. The organic phase is dried and concentrated. After chromatography over SiO2 with n-hexane/ether (1:1) and ether there are obtained 2.1 g of cholest-5-en-3β-yl [(RS)-2-hydroxy-1-[(phenoxycarbonyl)oxymethyl]ethyl]carbamate.

reactant | cholesteryl chloroformate | 5.00 g | C[C@H](CCCC(C)C)[C@H]1CCC2[C@@]1(CCC3C2CC=C4[C@@]3(CCC(C4)OC(=O)Cl)C)C | C28H45ClO2
reactant | DL-serinol | 1.4 g | NC(CO)CO | C3H9NO2
reactant | HCl | Cl | ClH
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene choride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | cholest-5-en-3β-yl [2-hydroxy-1-(hydroxymethyl)ethyl]carbamate | 4.3 g | OCC(CO)NC(O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C31H53NO4
